US05972927
Stage 1: 5-Methoxyindoline.
To a solution of 50.0 g (340 mmol) of 5-methoxyindole in 700 ml of glacial acetic acid are added portionwise, at 15-20° C., 53.4 g (850 mmol) of sodium cyanoborohydride. The weakly exothermic addition is carried out over 3 hours and is accompanied by a slight evolution of hydrogen. The mixture is left stirring below 20° C. for 12 hours, 700 ml of water are then added and the pH of the reaction medium is adjusted to between 10 and 12 by addition of 1200 ml of 30% sodium hydroxide solution. The mixture is extracted twice with dichloromethane and the organic phase is then washed with 300 ml of water. The mixture is evaporated and the residue is purified by flash chromatography on a column of silica, the eluent used being a mixture of increasing polarity of methanol in dichloromethane. 41.84 g of colorless oil which becomes pale yellow on storage (to be stored under nitrogen atmosphere and sheltered from the light) are obtained.

reactant | 5-methoxyindole | 340 mmol, 50.0 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium cyanoborohydride | 850 mmol, 53.4 g | C(#N)[BH3-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 1200 ml | [OH-].[Na+]
solvent | acetic acid | 700 ml | C(C)(=O)O | C2H4O2
solvent | water | 700 ml | O | H2O
product | 5-Methoxyindoline | COC=1C=C2CCNC2=CC1 | C9H11NO
